US05310500
2-benzyloxynaphthalene-6-carboxylic acid chloride (6.4 g) was dissolved in 50 ml of methylene chloride and added in small portions to a solution of 1-octanol (2.6 g), dimethylaminopyridine (0.7 g) and triethylamine (2.1 g) in 30 ml of methylene chloride under ice-cooling. After the reaction mixture was stirred for about 20 hours, it was poured into ice-water and extracted with methylene chloride. The solvent was removed by evaporation to give a crude product, which was then subjected to silica gel column chromatography (eluent: hexane/ethylacetate=10/0.5) to give 2.6 g of 2-benzyloxy-6-octyloxycarbonylnaphthalene.

reactant | 2-benzyloxynaphthalene-6-carboxylic acid chloride | 6.4 g | C(C1=CC=CC=C1)OC1=CC2=CC=C(C=C2C=C1)C(=O)Cl | C18H13ClO2
reactant | 1-octanol | 2.6 g | C(CCCCCCC)O | C8H18O
reactant | dimethylaminopyridine | 0.7 g | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | triethylamine | 2.1 g | C(C)N(CC)CC | C6H15N
reactant | hexane ethylacetate | CCCCCC.C(C)OC(C)=O
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | 2-benzyloxy-6-octyloxycarbonylnaphthalene | 2.6 g | C(C1=CC=CC=C1)OC1=CC2=CC=C(C=C2C=C1)C(=O)OCCCCCCCC | C26H30O3
